US04072685
A suspension of 3.5 g of N-propyl-3-(3',4'-dihydroxyphenyl)-piperidine hydrobromide in 40 ml of acetic acid anhydride was stirred with 3.5 g of sodium acetate for 3 hours at 20° C and the mixture was then filtered. The filtrate was evaporated to dryness and the residue was taken up in a water-ethyl acetate mixture. The mixture was made alkaline with sodium bicarbonate addition and the organic phase was recovered by decanting. The organic phase was washed with water, dried and evaporated to dryness to obtain 3.3 g of N-propyl-3-(3',4'-diacetoxyphenyl)-piperidine.

reactant | N-propyl-3-(3',4'-dihydroxyphenyl)-piperidine hydrobromide | 3.5 g | Br.C(CC)N1CC(CCC1)C1=CC(=C(C=C1)O)O
reactant | sodium acetate | 3.5 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-propyl-3-(3',4'-diacetoxyphenyl)-piperidine | 3.3 g | C(CC)N1CC(CCC1)C1=CC(=C(C=C1)OC(C)=O)OC(C)=O | C18H25NO4
